US09302991B2
<Step-2>:methyl 5-acetamido-6-(2,2,2-trifluoroethoxy)nicotinate
A mixture of methyl 5-chloro-6-(2,2,2-trifluoroethoxy)nicotinate (3.08 g, 11.4 mmol, Step-1), acetamide (0.70 mL, 13.7 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.73 g, 0.80 mmol), potassium phosphate (7.27 g, 34.3 mmol) and 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl (0.34 g, 0.800 mmol) in tert-butyl alcohol (114 mL) is stirred for 3 hours at 110° C. The reaction mixture is poured into water and extricated with ethyl acetate and dried over sodium sulfate and concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (3:1 to 1:1) to give 0.59 g (18% yield) of the title compound as a white solid.

reactant | methyl 5-chloro-6-(2,2,2-trifluoroethoxy)nicotinate | 11.4 mmol, 3.08 g | ClC=1C(=NC=C(C(=O)OC)C1)OCC(F)(F)F | C9H7ClF3NO3
reactant | acetamide | 13.7 mmol, 0.70 mL | C(C)(=O)N | C2H5NO
reactant | potassium phosphate | 34.3 mmol, 7.27 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.800 mmol, 0.34 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
solvent | tert-butyl alcohol | 114 mL | C(C)(C)(C)O | C4H10O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.80 mmol, 0.73 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | methyl 5-acetamido-6-(2,2,2-trifluoroethoxy)nicotinate | 0.59 g, 18% yield | C(C)(=O)NC=1C(=NC=C(C(=O)OC)C1)OCC(F)(F)F | C11H11F3N2O4
